US08207177B2
Step d: {(3aR,4S,6R,6aS)-2,2-Dimethyl-6-[4-(phenylsulfanyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl}methanol
(1S,2R,3S,5R)-3-(Hydroxymethyl)-5-[4-(phenylsulfanyl)-7H-pyrrolo[2,3-d]-pyrimidin-7-yl]cyclopentane-1,2-diol (320 mg, 0.0895 mmol), 2,2-dimethoxypropane (0.0549 mL, 0.446 mmol), and p-toluenesulfonic acid monohydrate (17.0 mg, 0.0895 mmol) were dissolved in acetone (2.20 mL) and stirred at rt overnight. Then the reaction was quenched with saturated sodium bicarbonate solution and approximately half the solvent was removed in vacuo. The resulting residue was diluted with water and extracted with DCM (3×). Combined organics were dried over sodium sulfate, filtered, and concentrated in vacuo to afford the title compound as a white foam (35.5 mg, 99%), which was used without further purification. LC/MS: Rt=1.72 min, ES+ 389 (FA standard).

reactant | (1S,2R,3S,5R)-3-(Hydroxymethyl)-5-[4-(phenylsulfanyl)-7H-pyrrolo[2,3-d]-pyrimidin-7-yl]cyclopentane-1,2-diol | 0.0895 mmol, 320 mg | OC[C@H]1[C@H]([C@H]([C@@H](C1)N1C=CC2=C1N=CN=C2SC2=CC=CC=C2)O)O | C18H19N3O3S
reactant | 2,2-dimethoxypropane | 0.446 mmol, 0.0549 mL | COC(C)(C)OC | C5H12O2
reactant | p-toluenesulfonic acid monohydrate | 0.0895 mmol, 17.0 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | acetone | 2.20 mL | CC(=O)C | C3H6O
product | {(3aR,4S,6R,6aS)-2,2-Dimethyl-6-[4-(phenylsulfanyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl}methanol | 35.5 mg, 99% | CC1(O[C@H]2[C@@H](O1)[C@@H](C[C@H]2CO)N2C=CC1=C2N=CN=C1SC1=CC=CC=C1)C | C21H23N3O3S
